datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH+:20][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1.[C:10](=[C:11]=[N-:12])([C:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)[C:81]#[N:81]>>C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH:20]([C:10]([C:11]#[N:12])([C:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[C:81]#[N:81])[C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1 10,11=10,20;12=11,12"
"C=C(C)CC[C:11](C)=[CH2:10].CC(C)(C)[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]C(C)(C)C)=[O:23]>>C=C(C)CC[C+:11](C)[CH2:10][N:20]([N:21]=[C:22]([O-:23])[O:33]C(C)(C)C)[C:41](=[O:42])[O:43]C(C)(C)C 10,11=10,20;20,21=21,22;22,23=23"
"C1C[CH:10]=[CH:11][CH:62]=[CH:63]C1.C[N:21]([S:20]C(F)(F)F)[S:32](C1=CC=CC=C1)(=[O:33])=[O:34]>>C[N-:21][S:32](C1=CC=CC=C1)(=[O:33])=[O:34].FC(F)(F)[S:20][CH:10]1CCC[CH:63]=[CH:62][CH+:11]1 10,11=10,20;20,21=21"
"C1C[CH:32]=[CH:31][C+:20]1[C:41]1=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]1.C[N:12]1[N:11]=[N:10][C:61]2=[C:62]1C=CC=C2>>C[N+:12]1=[N:11][N:10]([C:20]2([C:41]3=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]3)CC[CH:32]=[CH:31]2)[C:61]2=[C:62]1C=CC=C2 10,11=10,20;12=11,12"
"C[C:11]1=[N:10]CC[N:12]1[C:63](C)=[O:64].C[N+:23]1=[C:22]2C=CC=C[C:21]2=[CH:20][C:31]2=[C:32]1C=CC=C2>>C[C:11]1=[N+:12]([C:63](C)=[O:64])CC[N:10]1[CH:20]1[C:21]2=[C:22](C=CC=C2)[N:23](C)[C:32]2=[C:31]1C=CC=C2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([C@@H]2CC[N:12]3C4=C(C=CC=C4)[S:62][C:11]3=[N:10]2)C=C1.C[C:22]([CH:21]=[CH2:20])=[O:23]>>C[C:22](=[CH:21][CH2:20][N:10]1[C@H](C2=CC=CC=C2)CC[N+:12]2=[C:11]1[S:62]C1=C2C=CC=C1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
CC1=CC(C)=C(C(C)C[CH+:20][C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1.C[N:62](C)[C:61](=[NH:10])[N:72](C)C>>CC1=CC(C)=C(C(C)C[CH:20]([NH+:10]=[C:61]([N:62](C)C)[N:72](C)C)[C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1 10=20
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].C[N:10]1CCCCC1>>CC[O:34][C:32]([C:21]([CH:20]([N+:10]1(C)CCCCC1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
"CC1=CC=[C:10]([B-:11]2(C3=CC(C(F)(F)F)=CC(C(F)(F)F)=C3)[O:12]C(C)(C)C(C)(C)[O:62]2)S1.C[C+:20](C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)=[O+:12]1.CC1=CC=[C:10]([C:20](C)(C)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)S1 10,11=10,20;12=11,12"
"C/[CH:10]=[CH:11]\C.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10](C)[CH+:11]C)[C:21]2=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23"
C1=CC2=CC=CC(CC3CC4CC[N:10]3CC4)=C2C=C1.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([N+:10]23CCC(CC2)CC3CC2=C3C=CC=CC3=CC=C2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"C1CC[N+:21](=[CH:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.CC(C)(C)O[C:62]([NH:61][NH2:10])=[O:63]>>CC(C)(C)O[C:62]([NH:61][NH2+:10][CH:20]([N:21]1CCCCC1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:63] 10=20;20,21=21"
"C1=CC=C([S:32]([CH:21]=[CH2:20])(=[O:33])=[O:34])C=C1.C[C:11]1=[CH:10]CCC1>>C[C+:11]1CCC[CH:10]1[CH2:20][CH-:21][S:32](C1=CC=CC=C1)(=[O:33])=[O:34] 10,11=10,20;20,21=21"
"C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH+:20][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1.FC1=C(F)C(F)=C([Si:63](C2=C(F)C(F)=C(F)C(F)=C2F)(C2=C(F)C(F)=C(F)C(F)=C2F)[O:12][C:11]2=[CH:10]CC[O:72]2)C(F)=C1F>>FC1=C(F)C(F)=C([Si:63](C2=C(F)C(F)=C(F)C(F)=C2F)(C2=C(F)C(F)=C(F)C(F)=C2F)[O+:12]=[C:11]2[CH:10]([CH:20]([C:31]3=[CH:36][C:35]4=[C:34]5N(CCC[C:33]5=[CH:32]3)CCC4)[C:41]3=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]3)CC[O:72]2)C(F)=C1F 10,11=10,20;12=11,12"
"CC(C)(C1=C(I)C=CC=C1)[O:21][S:20]C(F)(F)F.[N-:10]1[C:61](=[O:62])[CH:71]=[CH:72][C:71]1=[O:72]>>CC(C)(C1=C(I)C=CC=C1)[O-:21].FC(F)(F)[S:20][N:10]1[C:61](=[O:62])[CH:71]=[CH:72][C:71]1=[O:72] 10=20;20,21=21"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][C:43]3=[C:44](OCC3)[CH:43]=[CH:44]2)[CH:36]=[CH:35]1.C[C:61]1=[CH:62][N:10]=[CH:11][N-:12]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2[CH:11]=[N:12][C:61](C)=[CH:62]2)[C:41]2=[CH:42][C:43]3=[C:44](OCC3)[CH:43]=[CH:44]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"CCCCCC[Si:63](CCCCCC)(CCCCCC)[CH:62]1CC[CH:10]=[CH:11]1.CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CCCCCC[Si:63](CCCCCC)(CCCCCC)[CH:62]1CC[CH:10]([CH:20]([C:31]2=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[CH+:11]1 10,11=10,20"
